US06432993B1
t-Butyl N-[2-amino-5-(2-t-butyl-4-hydroxyphenoxy)phenyl]-N-methylcarbamate
In a similar manner to that described in Reference Example 7, a reaction was carried out using t-butyl N-[5-(2-t-butyl-4-hydroxyphenoxy)-2-nitrophenyl]-N-methylcarbamate (1.09 g), palladium on carbon (10%, 0.15 g) and methanol (20 ml) and the reaction mixture was purified to give the title compound (0.95 g).

reactant | t-butyl N-[5-(2-t-butyl-4-hydroxyphenoxy)-2-nitrophenyl]-N-methylcarbamate | 1.09 g | C(C)(C)(C)C1=C(OC=2C=CC(=C(C2)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-])C=CC(=C1)O | C22H28N2O6
catalyst | palladium on carbon | 0.15 g | [Pd] | Pd
solvent | methanol | 20 ml | CO | CH4O
product | t-Butyl N-[2-amino-5-(2-t-butyl-4-hydroxyphenoxy)phenyl]-N-methylcarbamate | 0.95 g | NC1=C(C=C(C=C1)OC1=C(C=C(C=C1)O)C(C)(C)C)N(C(OC(C)(C)C)=O)C | C22H30N2O4
